US08431596B2
[(R)-2-(4-Bromo-phenoxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester
4-Bromophenol (0.2 g, 1.14 mmol), ((R)-2-hydroxy-1-methyl-ethyl)-carbamic acid tert-butyl ester (0.2 g, 1.14 mmol) and triphenylphosphine (0.45 g, 1.71 mmol) were dissolved in anhydrous toluene (10 ml) under an atmosphere of nitrogen. A solution of di-tert-butyl azodicarboxylate (0.39 g, 1.71 mmol) in toluene (5 ml) was added slowly ensuring that the temperature did not exceed 35° C. The reaction mixture was heated to 80° C. and stirred overnight. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate and subsequently washed with 1M HCl, water, brine then dried over magnesium sulfate, filteted and concentrated in vacuo. Purification by Flash Chromatography using 10% ethyl acetate/cyclohexane as the elutant gave the final product. Yield 80 mg, 21%. LCMS method: 2, RT: 6.17 min; MI: 330-332 [M+1].

reactant | 4-Bromophenol | 1.14 mmol, 0.2 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | ((R)-2-hydroxy-1-methyl-ethyl)-carbamic acid tert-butyl ester | 1.14 mmol, 0.2 g | C(C)(C)(C)OC(N[C@@H](CO)C)=O | C8H17NO3
reactant | triphenylphosphine | 1.71 mmol, 0.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 1.71 mmol, 0.39 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | [(R)-2-(4-Bromo-phenoxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](COC1=CC=C(C=C1)Br)C)=O | C14H20BrNO3
